US06403610B1
A solution of 1 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate in 40 cm3 of acetonitrile and 10 cm3 of methanol was stirred at a temperature. in the region of 20° C. and then 1.16 g of potassium carbonate and 0.5 g of potassium iodide were added. 1 g of 2-chloro-5-(2-chloroethylthio)thiophene and 10 cm3 of acetonitrile were added to the suspension obtained. The mixture was stirred for 72 hours at a temperature in the region of 80° C. The reaction mass was poured onto 75 cm3 of ethyl acetate and then washed with 3 times 70 cm3 of water. The organic phase was dried over sodium sulfate, filtered, and evaporated under reduced pressure (5 kPa) at a temperature in the region of 45° C. The residue obtained was purified by chromatography under a nitrogen pressure of 40 kPa on a column of silica gel (particle size 20-40 μm; diameter 3.5 cm; silica height 31 cm), elution was carried out with ethyl acetate, and 30-cm3 fractions were collected. Fractions 24 to 52 were combined and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.48 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(5-chlorothien-2-yl)ethyl]piperidine-3-carboxylate was obtained in the form of an oil with a brown color.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 1 g | OC(CC[C@H]1[C@H](CNCC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C20H26N2O4
reactant | potassium carbonate | 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | 2-chloro-5-(2-chloroethylthio)thiophene | 1 g | ClC=1SC(=CC1)SCCCl | C6H6Cl2S2
reactant | acetonitrile | 40 cm3 | C(C)#N | C2H3N
reactant | acetonitrile | 10 cm3 | C(C)#N | C2H3N
solvent | methanol | 10 cm3 | CO | CH4O
solvent | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
product | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(5-chlorothien-2-yl)ethyl]piperidine-3-carboxylate | 0.48 g | OC(CC[C@H]1[C@H](CN(CC1)CCC=1SC(=CC1)Cl)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C26H31ClN2O4S
